US04945098
3-Hexadecyloxycarbonyloxy-1-(6-hydroxyhexyloxy)-2-methylenepropane
3-Hexadecyloxycarbonyloxy-1-[6-(triphenylmethoxy)hexyloxy]-2-methylenepropane (from Preparation 50) (1.95 g), 4-toluenesulfonic acid monohydrate (60 mg) and water (0.15 ml) were stirred in methylene chloride (30 ml) for 24 hours at 22° C. The reaction mixture was neutralized with saturated aqueous sodium hydrogencarbonate, dried over magnesium sulfate, filtered and evaporated in vacuo to dryness. Purification was achieved by chromatography on Waters PrepLC®/System 500A using a prepPAK®-500 cartridge with ether/chloroform/pentane 1:1:10 followed by ether/chloroform 1:1 as eluents.

reactant | 3-Hexadecyloxycarbonyloxy-1-[6-(triphenylmethoxy)hexyloxy]-2-methylenepropane | 1.95 g | C(CCCCCCCCCCCCCCC)OC(=O)OCC(COCCCCCCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=C | C46H66O5
reactant | 4-toluenesulfonic acid monohydrate | 60 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | 0.15 ml | O | H2O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 3-Hexadecyloxycarbonyloxy-1-(6-hydroxyhexyloxy)-2-methylenepropane | C(CCCCCCCCCCCCCCC)OC(=O)OCC(COCCCCCCO)=C | C27H52O5
